US07417060B2
To a solution of tert-butyl [2-[3′-(cyclohexyloxy)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl][(2R)-2-hydroxy-2-phenylethyl]carbamate (89 mg) in 1,4-dioxane (2 ml) was added 4N hydrogen chloride solution in 1,4-dioxane (4 ml) at room temperature and the mixture was stirred at the same temperature for 2 hours. The mixture was evaporated under reduced pressure to give 3-(cyclohexyloxy)-4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride (76 mg).

reactant | tert-butyl [2-[3′-(cyclohexyloxy)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl][(2R)-2-hydroxy-2-phenylethyl]carbamate | 89 mg | C1(CCCCC1)OC=1C=C(C=CC1C(=O)NS(=O)(=O)C)C1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C1=CC=CC=C1)O | C35H44N2O7S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-(cyclohexyloxy)-4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride | 76 mg | Cl.C1(CCCCC1)OC=1C=C(C=CC1C(=O)NS(=O)(=O)C)C1=CC=C(C=C1)CCNC[C@@H](C1=CC=CC=C1)O | InChI=1S/C30H36N2O5S.ClH/c1-38(35,36)32-30(34)27-17-16-25(20-29(27)37-26-10-6-3-7-11-26)23-14-12-22(13-15-23)18-19-31-21-28(33)24-8-4-2-5-9-24;/h2,4-5,8-9,12-17,20,26,28,31,33H,3,6-7,10-11,18-19,21H2,1H3,(H,32,34);1H/t28-;/m0./s1
